US07754725B2
Synthesis of (2,4-bis-benzyloxy-5-isopropyl-phenyl)-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone
2,4-Bis-benzyloxy-5-isopropyl-benzoyl chloride (200 mg, 0.5 mmol) was dissolved in DCM (5 ml), treated with 1-(2-dimethylaminoethyl)piperazine (83.6 mg, 0.53 mmol) and triethylamine (0.2 ml, then stirred for 1 hour at room temperature. The reaction mixture was diluted with DCM, washed with water and, dried (MgSO4) and evaporated to give 0.25 g of the title compound. MS: [M+H]+ 516

reactant | 2,4-Bis-benzyloxy-5-isopropyl-benzoyl chloride | 0.5 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C(=O)Cl)C=C(C(=C1)OCC1=CC=CC=C1)C(C)C | C24H23ClO3
reactant | 1-(2-dimethylaminoethyl)piperazine | 0.53 mmol, 83.6 mg | CN(CCN1CCNCC1)C | C8H19N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (2,4-bis-benzyloxy-5-isopropyl-phenyl)-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone | 0.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C(=O)N1CCN(CC1)CCN(C)C | C32H41N3O3
